US09238639B2
(6-((2,4-Dichlorobenzyl)oxy)-4-methyl-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(6-((2,4-dichlorobenzyl)oxy)-4-methyl-1-benzothiophen-3-yl)acetate (200 mg) and EtOH (2 mL) was added 1N NaOH (1 mL) at room temperature, and the mixture was refluxed for 15 min. The solution was cooled and concentrated under reduced pressure. The residue was neutralized with 1N HCl at 0° C. and extracted with EtOAc. The organic layer was separated, washed successively with 1N HCl and brine, dried over MgSO4, and the mixture was concentrated in vacuo. The residue was crystallized from EtOAc to give the title compound (164 mg).

reactant | methyl(6-((2,4-dichlorobenzyl)oxy)-4-methyl-1-benzothiophen-3-yl)acetate | 200 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)C)=O | C19H16Cl2O3S
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | (6-((2,4-Dichlorobenzyl)oxy)-4-methyl-1-benzothiophen-3-yl)acetic acid | 164 mg | ClC1=C(COC2=CC3=C(C(=CS3)CC(=O)O)C(=C2)C)C=CC(=C1)Cl | C18H14Cl2O3S
